US06121396
Into a one-liter Schlenk flask were placed 4.26 g of 2-dimethylaminofluorene and 250 mL of tetrahydrofuran. The flask was cooled to -78° C. Into the flask, 11 mL of a 1.72N n-BuLi solution in hexane was gradually added dropwise. The reaction solution was spontaneously brought to room temperature, and then cooled again to -78° C. Thereto, a solution of 5.1 g of diphenylfulvene in 250 mL of tetrahydrofuran was gradually added dropwise. The mixture was stirred vigorously overnight while the temperature thereof was allowed to rise spontaneously to room temperature. A red homogeneous reaction solution was thereby obtained. This reaction solution was washed with a saturated sodium chloride solution, and the solvent was evaporated off. The residue was purified by column chromatography to obtain 7.6 g of slightly yellowish white solid. This solid was placed in another Schlenk flask together with 250 mL of tetrahydrofuran. The mixture was cooled to -78° C. Thereto, 6.5 mL of a 1.72N n-BuLi solution in hexane was gradually added dropwise, and then the mixture was brought to room temperature. To this reaction solution, a solution of 1.15 g of zirconium tetrachloride in 100 mL of tetrahydrofuran was introduced slowly to obtain 1.15 g of intended diphenylmethylene(cyclopentadienyl)(2-dimethylaminofluorenyl)zirconium dichloride. This compound was identified by 1H-NMR as shown in Table 1.

reactant | 2-dimethylaminofluorene | 4.26 g | CN(C1=CC=2CC3=CC=CC=C3C2C=C1)C | C15H15N
reactant | n-BuLi | 1.72N | [Li]CCCC
reactant | diphenylfulvene | 5.1 g | C1(=CC=CC=C1)C1=C(C(C=C1)=C)C1=CC=CC=C1 | C18H14
reactant | n-BuLi | 1.72N | [Li]CCCC
reactant | zirconium tetrachloride | 1.15 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
reactant | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | diphenylmethylene(cyclopentadienyl)(2-dimethylaminofluorenyl)zirconium dichloride | 1.15 g | [Cl-].[Cl-].C1(=CC=CC=C1)C(C1=CC=CC=C1)=[Zr+2](C1=C(C=CC=2C3=CC=CC=C3CC12)N(C)C)C1C=CC=C1 | InChI=1S/C15H14N.C13H10.C5H5.2ClH.Zr/c1-16(2)13-7-8-15-12(10-13)9-11-5-3-4-6-14(11)15;1-3-7-12(8-4-1)11-13-9-5-2-6-10-13;1-2-4-5-3-1;;;/h3-8H,9H2,1-2H3;1-10H;1-5H;2*1H;/q;;;;;+2/p-2
